US07612114B2
(R)-6-{2-{Ethyl[3-fluoro-4-(1-methylpiperidin-4-yloxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 3-fluoro-4-(1-methylpiperidin-4-yloxy)benzaldehyde (55 mg) according to an analogous synthetic method to Example 264 described below and purified by LC-MS, the title compound (7.7 mg) was obtained.

reactant | pivalic acid (R)-6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)NC1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
reactant | 3-fluoro-4-(1-methylpiperidin-4-yloxy)benzaldehyde | 55 mg | FC=1C=C(C=O)C=CC1OC1CCN(CC1)C | C13H16FNO2
product | (R)-6-{2-{Ethyl[3-fluoro-4-(1-methylpiperidin-4-yloxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 7.7 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OC1CCN(CC1)C)F | C32H39FN2O3
